US05756531
Preparation of 2-oxopropionic acid-O-2-[Z-5-fluoro-2-methyl-1-(4-methylthiophenyl)methylene-1H-inden-3-yl]ethyl oxime
The title compound is prepared by reaction of O-2-[Z-5-fluoro-2-methyl-1-(4-methylthiophenyl)methylene-1H-inden-3-yl]ethyl hydroxylamine with 2-oxopropionic acid by the method of Example 1.

reactant | O-2-[Z-5-fluoro-2-methyl-1-(4-methylthiophenyl)methylene-1H-inden-3-yl]ethyl hydroxylamine | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)SC)C)CCON | C20H20FNOS
reactant | 2-oxopropionic acid | O=C(C(=O)O)C | C3H4O3
product | 2-oxopropionic acid-O-2-[Z-5-fluoro-2-methyl-1-(4-methylthiophenyl)methylene-1H-inden-3-yl]ethyl oxime | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)SC)C)CCON=C(C(C)=O)O | C23H22FNO3S
